US05536722
2,4-Bis-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl]-6-amino-l,3,5-triazine hydrochloride
2,4-Dichloro-6-amino-1,3,5-triazine (5.13 g, 31.1 mM) and 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (14.72 g, 64 mM) were stirred in dioxane (40 mL) with sodium carbonate solution (2N, 65 mL) at reflux for 3 hr. The mixture was cooled and diluted with saturated sodium chloride solution (1000 mL) and extracted with methylene chloride (3×75 mL). Filtration through a cotton plug and concentration followed by evaporation from benzene (2×20 mL) provided a foam, 16.5 g. This material was combined with 7.8 g of crude product prepared analogously and recrystallized from chloroform/methanol to provide 13.85 g(61%). Recrystallization of free base (2.6 g) from hydrochloric acid/methanol (1N) provided a yellow powder, 2.17 g(78%), mp=259°-261° C.

reactant | 2,4-Dichloro-6-amino-1,3,5-triazine | 31.1 mM, 5.13 g | ClC1=NC(=NC(=N1)Cl)N | C3H2Cl2N4
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 64 mM, 14.72 g | Cl.COC=1C=C2CCNCC2=CC1OC
reactant | sodium carbonate | 2N, 65 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | sodium chloride | 1000 mL | [Cl-].[Na+]
product | 2,4-Bis-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl]-6-amino-l,3,5-triazine hydrochloride | Cl.COC=1C=C2CCN(CC2=CC1OC)C1=NC(=NC(=N1)N1CC2=CC(=C(C=C2CC1)OC)OC)N | InChI=1S/C25H30N6O4.ClH/c1-32-19-9-15-5-7-30(13-17(15)11-21(19)34-3)24-27-23(26)28-25(29-24)31-8-6-16-10-20(33-2)22(35-4)12-18(16)14-31;/h9-12H,5-8,13-14H2,1-4H3,(H2,26,27,28,29);1H
